Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg pain
 
Major Surgical or Invasive Procedure:
L2 full laminectomy, removal of synovial cysts, and 
decompression of the nerve roots.

 
History of Present Illness:
Mr. ___ is a ___ gentleman, obese, works normally as 
a ___ for the T who has progressive pain in the right 
upper part of the leg, roughly
L3 distribution with weakness in the left proximal leg as well. 
He presented to ___ on ___ for a L2 laminectomy and synovial 
cyst resection.
 
Past Medical History:
Asthma
OSA on CPAP
Hypertension
Obesity
Psoriasis
Diabetes mellitus, type II
Dyslipidemia
Erectile dysfunction
Colonic adenoma (___)
 
Social History:
___
Family History:
Non-contributory
Father with COPD and diabetes, died at age ___.  Mother alive and 
well without medical condition.  Brother died at age ___ of 
pneumonia.
 
Physical Exam:
On discharge:
A&Ox3, RLE ___ except ___ 4+/5, LLE ___, R foot numbness at 
baseline. 
Staples CDI.
 
Pertinent Results:
___ 09:45AM BLOOD WBC-13.2*# RBC-4.31* Hgb-12.2* Hct-37.9* 
MCV-88 MCH-28.3 MCHC-32.2 RDW-13.3 RDWSD-42.8 Plt ___
___ 09:45AM BLOOD ___ PTT-31.4 ___
___:45AM BLOOD Glucose-132* UreaN-13 Creat-0.9 Na-135 
K-3.6 Cl-96 HCO3-28 AnGap-15
___ 09:45AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.6
___ 02:29PM BLOOD pO2-104 pCO2-57* pH-7.35 calTCO2-33* Base 
XS-3
 
Brief Hospital Course:
Mr. ___ was admitted to ___ Neurosurgery service on ___ 
after he underwent an elective L2 laminectomy for synovial cyst 
resection.  He tolerated the procedure well and there were no 
intraoperative complications.  He was transferred to the PACU 
and weaned to extubation there.  His pain was managed with 
narcotic and non-narcotic analgesics.  His diet was advanced to 
regular as tolerated.  Later that evening, Mr. ___ was 
transferred to the inpatient ward for further observation and 
management. 

On ___ Patient's pain was well controlled. He had one episode 
of tachycardia to the 120s. He was given a fluid bolus and it 
resolved. ___ was consulted. 

On ___ Patient was evaluated by physical therapy who 
recommended rehab. 

On ___ Patient is neurologically stable. He was discharged to a 
skilled nursing facility on the evening of ___.  At the time of 
discharge, he was afebrile, hemodynamically and neurologically 
intact.
 
Medications on Admission:
Albuterol, Fluticasone, Metformin, Methoxalen, Naproxen, 
Viagara, ___ 325
 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4H as needed for shortness of 
breath 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID as needed for 
shortness of breath 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Acetaminophen 325-650 mg PO Q6H:PRN for fever or pain 
7. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
8. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
9. Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 2 mg 1 tablet by mouth three times a day Disp #*45 
Tablet Refills:*0
10. Docusate Sodium 100 mg PO BID 
11. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
12. Glucose Gel 15 g PO PRN hypoglycemia protocol 
13. Heparin 5000 UNIT SC TID 
14. Senna 17.2 mg PO QHS 
15. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
16. Naproxen 500 mg PO Q8H:PRN as needed for back pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
L2-3 Facet Cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until staple removal.
•Do not apply any lotions or creams to the site. 
•Please avoid swimming for two weeks after suture/staple 
removal.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may take Ibuprofen/ Motrin for pain.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___